US08110571B2
2-{[(2-Methoxyethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,4,6-trimethylbenzenesulfonate
To a suspension of 200 mg of 1-(5-hydroxy-1H-benzimidazol-2-yl)-3-(2-methoxyethyl)urea in 50 cm3 of acetone are added 0.162 cm3 of triethylamine and 192 mg of 2,4,6-trimethylbenzenesulfonyl chloride. After stirring for about 20 hours at a temperature in the region of 20° C., 95 mg of 2,4,6-trimethylbenzenesulfonyl chloride and 0.08 cm3 of triethylamine are added. After stirring for a further 3 hours at the same temperature, 95 mg of 2,4,6-trimethylbenzenesulfonyl chloride are added and the suspension is stirred for about 20 hours. After concentrating to dryness under reduced pressure (13 kPa), the residue is taken up in 50 cm3 of water and extracted with three times 40 cm3 of ethyl acetate. The organic phases are dried over magnesium sulfate, filtered and concentrated under reduced pressure. After flash chromatography on a column of silica [eluent: dichloromethane/methanol (95/5 by volume)], 134 mg of a resin are obtained, which resin is solidified in 7 cm3 of diisopropyl ether and 7 cm3 of diethyl ether. After filtration and drying under reduced pressure (13 kPa) over phosphorus pentoxide, 123 mg of 2-{[(2-methoxyethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,4,6-trimethylbenzenesulfonate are obtained in the form of a solid, the characteristics of which are as follows:

reactant | 1-(5-hydroxy-1H-benzimidazol-2-yl)-3-(2-methoxyethyl)urea | 200 mg | OC1=CC2=C(NC(=N2)NC(=O)NCCOC)C=C1 | C11H14N4O3
reactant | triethylamine | 0.162 cm3 | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 192 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 95 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | triethylamine | 0.08 cm3 | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 95 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
solvent | acetone | 50 cm3 | CC(=O)C | C3H6O
product | 2-{[(2-Methoxyethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,4,6-trimethylbenzenesulfonate | 134 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(NCCOC)=O)C=C1 | C20H24N4O5S
